US07981880B2
Method H—Preparation of 1-(1-methylpiperidin-4-yl)-4-(4-nitrophenyl)piperazine
4-Fluoronitrobenzene (3 g, 21.3 mmol), 1-(1-methylpiperidin-4-yl)piperazine (3.9 g, 21.2 mmol) and triethylamine (3.30 mL, 23.7 mmol) are stirred in anhydrous isopropanol (10 mL) for 10 min at 160° C. in the microwave. The reaction mixture is diluted with water (10 mL), the precipitate is filtered off washed with 50% water in isopropanol and dried in vacuo at 45° C. Yield: 5.14 g

reactant | 4-Fluoronitrobenzene | 21.3 mmol, 3 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1-(1-methylpiperidin-4-yl)piperazine | 21.2 mmol, 3.9 g | CN1CCC(CC1)N1CCNCC1 | C10H21N3
reactant | triethylamine | 23.7 mmol, 3.30 mL | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
solvent | water | 10 mL | O | H2O
product | 1-(1-methylpiperidin-4-yl)-4-(4-nitrophenyl)piperazine | CN1CCC(CC1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H24N4O2
